US08541575B2
1.27 g (4.77 mmol) of 4-[3-(3-nitro-phenyl)-1H-pyrazol-4-yl]-pyridine was suspended in methanol (200 mL). Pd/C 10% (250 mg) was added and the mixture was agitated under hydrogen pressure (50 psi) in a Parr apparatus at room temperature for 4 hours. The catalyst was then filtered on a Celite pad and washed with methanol. The filtrate was concentrated to dryness to obtain 1.1 g (98% yield) of 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-phenylamine as an off-white solid.

reactant | 4-[3-(3-nitro-phenyl)-1H-pyrazol-4-yl]-pyridine | 4.77 mmol, 1.27 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC=C1C1=CC=NC=C1 | C14H10N4O2
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 3-(4-pyridin-4-yl-1H-pyrazol-3-yl)-phenylamine | 1.1 g, 98% yield | N1=CC=C(C=C1)C=1C(=NNC1)C=1C=C(C=CC1)N | C14H12N4
